US04521597
Production of N-(2-difluoromethoxybenzenesulfonyl)-imidocarbonic acid diethyl ester
11.1 g (0.11 mol) of triethylamine are added dropwise at room temperature, with stirring, to a solution of 24.3 g (0.1 mol) of 2-difluoromethoxy-benzenesulfonyl chloride and 11.7 g (0.1 mol) of imidocarbonic acid diethyl ester in 70 ml of acetone. The reaction proceeds slightly exothermically. The reaction mixture is stirred for some hours at room temperature, and the triethylamine hydrochloride is then filtered off. The mother liquor is concentrated by evaporation, and the oil remaining is chromatographed by means of chloroform/ether/petroleum ether (3:3:2) on a silica gel column. After the eluate has been evaporated, there remain 23 g of the above ester, which crystallise (72% of theory), m.p. 80°-81° C.

reactant | triethylamine | 0.11 mol, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-difluoromethoxy-benzenesulfonyl chloride | 0.1 mol, 24.3 g | FC(OC1=C(C=CC=C1)S(=O)(=O)Cl)F | C7H5ClF2O3S
reactant | imidocarbonic acid diethyl ester | 0.1 mol, 11.7 g | C(C)OC(OCC)=N | C5H11NO2
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | N-(2-difluoromethoxybenzenesulfonyl)-imidocarbonic acid diethyl ester | C(C)OC(OCC)=NS(=O)(=O)C1=C(C=CC=C1)OC(F)F | C12H15F2NO5S
